US08026234B2
Ethyl 3-(benzyl(cyclopentyl)amino)-2-hydroxy-2-methylpropanoate:
To ethyl 3-(cyclopentylamino)-2-hydroxy-2-methylpropanoate (3.9 g, 18 mmol) in 50 ml of acetonitrile at room temperature, was added benzyl bromide (3.2 ml, 27.2 mmol) dropwise, followed by K2CO3 (7.5 g, 54.3 mmol). The reaction mixture was heated at 80° C. for 18 h. It was then diluted to EtOAc, washed by brine and water. Organic extract dried and concentrated to a residue, which was purified on silica gel column chromatographically (Hex/EtOAc=100:1 to 10:1) to give 4.2 g product (77%). [M+H] calc'd for C18H27NO3, 306. found 306.

reactant | ethyl 3-(cyclopentylamino)-2-hydroxy-2-methylpropanoate | 18 mmol, 3.9 g | C1(CCCC1)NCC(C(=O)OCC)(C)O | C11H21NO3
reactant | benzyl bromide | 27.2 mmol, 3.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 54.3 mmol, 7.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Ethyl 3-(benzyl(cyclopentyl)amino)-2-hydroxy-2-methylpropanoate | 4.2 g, 77% | C(C1=CC=CC=C1)N(CC(C(=O)OCC)(C)O)C1CCCC1 | C18H27NO3
